US07560558B2
Compound 89: Ethyl 2-[(6,7-dimethoxy-4-quinolyl)oxy]-5-(2,4-difluorophenyl)benzoate
Ethyl 5-(2,4-difluorophenyl)salicylate (188 mg), 4-chloro-6,7-dimethoxyquinoline (57 mg), and 4-dimethylaminopyridine (93 mg) were suspended in o-dichlorobenzene (1 ml), and the suspension was stirred at 120° C. overnight. The reaction solution was cooled to room temperature, and the solvent was removed by distillation under the reduced pressure. Water was then added to the reaction solution, and the mixture was extracted with chloroform. The chloroform layer was washed with water and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure. The residue was purified by column chromatography using acetone-hexane to give the title compound (13 mg, yield 24%).

reactant | Ethyl 5-(2,4-difluorophenyl)salicylate | 188 mg | FC1=C(C=CC(=C1)F)C1=CC=C(C(C(=O)OCC)=C1)O | C15H12F2O3
reactant | 4-chloro-6,7-dimethoxyquinoline | 57 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
catalyst | 4-dimethylaminopyridine | 93 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 1 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | Ethyl 2-[(6,7-dimethoxy-4-quinolyl)oxy]-5-(2,4-difluorophenyl)benzoate | 13 mg, yield 24% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C(=O)OCC)C=C(C=C1)C1=C(C=C(C=C1)F)F | C26H21F2NO5
